US07943748B2
(4) Synthesis of (2S,3R,4R,5S,6R)-2-[3-(Benzo[b]thiophen-2-ylmethyl)naphthalen-1-yl]-3,4,5-trisbenzyloxy-6-benzyloxymethyltetrahydropyran
In a nitrogen stream, triethylsilane (0.34 ml, 2.06 mmol) and a boron trifluoride-diethyl ether complex (0.24 ml, 1.89 mmol) were added dropwise to a solution of (3R,4S,5S,6R)-2-[3-(benzo[b]thiophen-2-ylmethyl)naphthalen-1-yl]-3,4,5-trisbenzyloxy-6-benzyloxymethyltetrahydropyran-2-ol (1.4 g, 1.72 mmol) in methylene chloride (15 ml) at 0° C. The reaction mixture was stirred at room temperature for two hours, and then water was added thereto and extracted with methylene chloride. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate n-hexane (1:10)] to obtain the title compound (1.1 g, 80.2%).

reactant | triethylsilane | 2.06 mmol, 0.34 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | (3R,4S,5S,6R)-2-[3-(benzo[b]thiophen-2-ylmethyl)naphthalen-1-yl]-3,4,5-trisbenzyloxy-6-benzyloxymethyltetrahydropyran-2-ol | 1.72 mmol, 1.4 g | S1C2=C(C=C1CC=1C=C(C3=CC=CC=C3C1)C1(O[C@@H]([C@@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)O)C=CC=C2 | C53H48O6S
reactant | water | O | H2O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | (2S,3R,4R,5S,6R)-2-[3-(Benzo[b]thiophen-2-ylmethyl)naphthalen-1-yl]-3,4,5-trisbenzyloxy-6-benzyloxymethyltetrahydropyran | 1.1 g, 80.2% | S1C2=C(C=C1CC=1C=C(C3=CC=CC=C3C1)[C@@H]1O[C@@H]([C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C=CC=C2 | C53H48O5S
